US06673799B1
trans-4-(4-Cyano-3-trifluoromethylphenyl)-N-(4-fluorophenyl)-2,5-dimethylpiperazine-1-sulfonamide
A 1.21 g portion of trans-4-(2,5-dimethylpiperazin-1-yl)-2-trifluoromethylbenzonitrile synthesized in Reference Example 1-1 and 2.05 g of sulfamide were heated under reflux for 1.5 hours in 15 ml of pyridine. Next, this was mixed with 4.05 ml of 4-fluoroaniline and again heated under reflux for 4 hours. After evaporation of the solvent, the residue was purified by a silica gel column chromatography to obtain 701 mg of the title compound from toluene-ethyl acetate eluate.

reactant | trans-4-(2,5-dimethylpiperazin-1-yl)-2-trifluoromethylbenzonitrile | C[C@@H]1N(C[C@H](NC1)C)C1=CC(=C(C#N)C=C1)C(F)(F)F | C14H16F3N3
reactant | sulfamide | 2.05 g | S(=O)(=O)(N)N | H4N2O2S
reactant | 4-fluoroaniline | 4.05 ml | FC1=CC=C(N)C=C1 | C6H6FN
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | trans-4-(4-Cyano-3-trifluoromethylphenyl)-N-(4-fluorophenyl)-2,5-dimethylpiperazine-1-sulfonamide | 701 mg | C(#N)C1=C(C=C(C=C1)N1C[C@@H](N(C[C@H]1C)S(=O)(=O)NC1=CC=C(C=C1)F)C)C(F)(F)F | C20H20F4N4O2S
